US05075445
To a solution of 2-amino-6-chloro-9-[2-(2,2-dimethyl-1,3-dioxan-5-yl)ethyl]purine (0.47 g, 1.5 mmol) in dry N,N-dimethylformamide (5 ml), sodium azide (0.20 g, 3.0 mmol) was added and the mixture was stirred at 100°-110° C. for 4 hours. The solvent was removed and the residue washed with water to leave 2-amino-6-azido-9-[2-(2,2-dimethyl-1,3-dioxan-5-yl)ethyl]purine as a crystalline solid (0.36 g, 75%), m.p. decomposed at 200° C,; λmax (MeOH) 272 (ε8,210) and 301 (ε10,100) nm; νmax (KBr) 1670, 1625, and 1560 cm-1 ; δH (CDCl3 -CD3OD) 1.44 (6 H, s, C(CH3)2), 1.6-2.2 (3 H, m, CHCH2CH2), 3.5-3.8 (2 H, dd (ABX), J 7 Hz and J 11 Hz, 2×Hax), 3.85-4.15 (2 H, dd (ABX), J 4 Hz and J 11 Hz, 2×Heq), 4.29 (2 H, t, J 7 Hz, CH2N), and 7.93 (1 H, s, 8-H) (Found: C, 48.96; H, 5.66; N, 35.15%; M+ 318.1553. C13H18N8O2 requires C, 49.05; H, 5.70; N, 35.20%; M+ 318.1546).

reactant | 2-amino-6-chloro-9-[2-(2,2-dimethyl-1,3-dioxan-5-yl)ethyl]purine | 1.5 mmol, 0.47 g | NC1=NC(=C2N=CN(C2=N1)CCC1COC(OC1)(C)C)Cl | C13H18ClN5O2
reactant | sodium azide | 3.0 mmol, 0.20 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-amino-6-azido-9-[2-(2,2-dimethyl-1,3-dioxan-5-yl)ethyl]purine | 0.36 g, 75% | NC1=NC(=C2N=CN(C2=N1)CCC1COC(OC1)(C)C)N=[N+]=[N-] | C13H18N8O2
